US06054414
Yield: 9.5 g (100% of theory) of 8-methyl-4-ethoxy-1,1-dioxothiochroman-7-carboxylic acid;
0.88 g (9 mmol) of ethylhydroxylamine is initially introduced in 20 ml of methanol. 0.62 g (4.5 mmol) of potassium carbonate is then added, followed by 2.0 g (9 mmol) of 8-methylthiochroman-4-one-7-carboxylic acid. The reaction is stirred at about 20° C. for 10 days. It is worked up by addition of water and 2N hydrochloric acid, and the resulting precipitate is filtered of f with suction and dried.

reactant | ethylhydroxylamine | 9 mmol, 0.88 g | C(C)NO | C2H7NO
reactant | potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-methylthiochroman-4-one-7-carboxylic acid | 9 mmol, 2.0 g | CC=1C(=CC=C2C(CCSC12)=O)C(=O)O | C11H10O3S
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 8-methyl-4-ethoxy-1,1-dioxothiochroman-7-carboxylic acid | CC=1C(=CC=C2C(CCS(C12)(=O)=O)OCC)C(=O)O | C13H16O5S
